2117-05-05 01:13:00 Physician Attending Progress Note
Chief Complaint: decline in mental status, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80M recently admitted with chronic left pleural effusion - underwent
   VATS, pleurectomy, decortication. Course complicated by mucus plugging,
   aspiration, HAP. G-tube placed and transferred to rehab.
   Returns with decline in mental status, chest congestion, respiratory
   distress, anemia, swelling LLE. Stable in ER though RR increased to
   30's. Head CT negative. LLE u/s showed cyst which was aspirated -
   serosanguinous fluid. Given antibiotics.
   History obtained from housestaff
   Patient unable to provide history: delirious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CAD
   MVR
   CHF EF 40%
   ?COPD
   CRI
   chronic AF
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2117-5-5**] 01:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 109 (101 - 109) bpm
   BP: 142/71(89) {142/71(89) - 142/71(89)} mmHg
   RR: 29 (29 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                      4 mL
                                                                      4 mL
   PO:
             TF:
   IVF:
                                                                      4 mL
                                                                      4 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 4L
   SpO2: 99%
   ABG: 7.37/48/116//2
   Physical Examination
   General Appearance: Thin, mild respiratory distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: No(t) Normal), (S2: Normal), irregular
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   abd
 benign, g-tube in place
   Skin:  Not assessed
   Neurologic: Responds to simple commands and answering questions
   extremities
 1+ edema LLE, tense collection over left calf
   Labs / Radiology
   205
   2.4
   24.5
   13
        [image002.jpg]
                             [**2117-5-5**]  12:08 AM
   TCO2
   29
   Other labs: PT / PTT / INR:/38/1.3, Lactic Acid:0.9 mmol/L
   Imaging: LLE u/s
   head CT
   CXR improved RLL infiltrates, stable left changes
   Microbiology: LLE cyst culture pending
   Assessment and Plan
   Decline in mental status - delirium likely due to medical
   complications, follow
   LLE cyst - follow cultures - likely [**Hospital Ward Name 5060**] cyst, discuss with surgery
   vs. orthopedics
   renal insufficiency - volume resuscitate
   Tachypnea, respiratory distress
 likely from mucus plaugging, CXR
   improved, hold off on antibiotics for now, had some secretions
   suctioned and somewhat better
   A-fib, MVR - hold anticoagulation tonight in light of worsening anemia
   Anemia - baseline 28, guaiac negative, follow
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   PICC Line - [**2117-5-4**] 11:30 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2117-05-07 07:29:00 Physician Resident Progress Note
Chief Complaint: Delirium
   LLE bleed
   24 Hour Events:
   - gave 1 U PRBC and 1 U FFP and hct bumped appropriately
   - CT torso w/o rp bleed
   - CT leg w/ large hematoma
   - hct stable X 2
   - nosebleed in am noted when he coughed up a clot, resolved w/ afrin,
   writtent for ddAVP
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-5-5**] 01:00 AM
   Ciprofloxacin - [**2117-5-6**] 10:00 AM
   Cefipime - [**2117-5-6**] 03:39 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-5-6**] 08:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-7**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 97 (73 - 107) bpm
   BP: 117/44(63) {82/38(54) - 143/66(82)} mmHg
   RR: 24 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,074 mL
                                                                    523 mL
   PO:
             TF:
                                                                    878 mL
                                                                    296 mL
   IVF:
                                                                    390 mL
                                                                     87 mL
   Blood products:
                                                                    666 mL
   Total out:
                                                                    860 mL
                                                                    400 mL
   Urine:
                                                                    560 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,214 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: awake, answering questions, asking for a telephone
   HEENT: anicteric sclera, MM w/ blood, bleeding from R nare
   Neck: supple, RIJ in place
   Heart: irregular, no obvious murmurs
   Lung: Coarse BS diffusely with decreased BS at L base.  Wet upper
   airway sounds
   Abd: soft, NT + BS
   Ext: 2+ edema on L, brown discoloration bilat.  LLE wrapped but mildly
   tender.  Ext warm
   Skin: multiple ecchymoses
   Neuro: awake but calling out frequently.  moving upper ext with good
   strength.
   Labs / Radiology
   143 K/uL
   8.7 g/dL
   127 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.0 mEq/L
   68 mg/dL
   116 mEq/L
   147 mEq/L
   25.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2117-5-5**]  12:08 AM
                             [**2117-5-5**]  03:45 AM
                             [**2117-5-5**]  11:11 AM
                             [**2117-5-5**]  05:14 PM
                             [**2117-5-5**]  07:43 PM
                             [**2117-5-6**]  03:03 AM
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
   WBC
   13.9
   10.1
   10.3
   10.2
   Hct
   20.5
   20.9
   22.6
   23.7
   26.3
   26.0
   25.7
   25.4
   Plt
   199
   143
   136
   143
   Cr
   2.6
   2.5
   2.6
   2.6
   TCO2
   29
   Glucose
   135
   101
   118
   127
   Other labs: PT / PTT / INR:16.3/29.1/1.5, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: [**5-6**] CT Torso w/o contrast
   CHEST: There is consolidation within the right lower lobe. There is
   consolidation/collapse of the left lower lobe, with a small amount of
   pleural
   effusion on the left. There is no axillary, mediastinal, or hilar
   lymphadenopathy by size criteria. Coronary calcifications are noted.
   Post-CABG
   changes are noted.
   ABDOMEN: A nasogastric tube is in place. The evaluation of the solid
   organs
   is limited by non-contrast technique. Allowing for this limitation,
   there is
   no gross contour abnormality associated with the liver, spleen,
   pancreas, or
   adrenals. The kidneys are atrophic bilaterally, and contain punctate
   non-
   obstructing calculi. There are bilateral exophytic renal lesions which
   cannot
   be characterized as simple cysts. There is no hydronephrosis. Abdominal
   aortic aneurysm is again identified, unchanged, measuring approximately
   3.9 cm
   in maximal diameter. There is no retroperitoneal hematoma. There is no
   abdominal lymphadenopathy.
   PELVIS: Evaluation of the pelvis is limited due to extensive streak
   artifact
   from patient's bilateral hip arthroplasties. Allowing for this
   limitation,
   there is no gross fluid collection or abnormality within the pelvis.
   LOWER EXTREMITIES: There is a large hematoma within the left calf,
   starting
   at the level of the popliteal fossa, extending for approximately 20 cm
   craniocaudad. There is extensive soft tissue edema and thickening of
   the
   facial planes superior to the hematoma.
   Extensive arterial calcifications are noted in the lower extremities
   bilaterally.
   OSSEOUS STRUCTURES: There is diffuse osteopenia. There is extensive
   degenerative change. Bilateral hip arthroplasties are noted. There are
   no
   destructive osseous lesions.
   IMPRESSION:
   1. Large left calf hematoma. No retroperitoneal bleed.
   2. Bilateral lower lobe consolidation/atelectasis as described above.
   Microbiology: [**5-5**] Cath tip w/ NGTD
   [**5-5**] tissue cx w/ NGTD
   [**5-4**] joint fluid cx ngtd
   [**5-4**] Blood cx pending w/ ngtd
   A/P: 88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission
   for VATS/decortication/pleurectomy for L hemothorax, who presents with
   altered mental status and LLE fluid collection.
   .
   .
   * Altered Mental Status:
   Improved, waxing and [**Doctor Last Name 282**] MS c/w delirium likely due to infection,
   pain. ?Still off his baseline.
   - Treat medical problems as per below
   - Cont antibiotics for presumed PNA
   - Treat bleeding per below
   - f/u urine and blood cx, send sputum cx
   - Hold psychoactive medications
   - Reorient frequently
   - Treat electrolyte disturbance
   - Start Haldol 0.5mg TID prn, follow QTC
   .
   * Epistaxis
   Dry mucosa. Bleed controlled with pressure, Afrin, ddAVP
   - Continue to monitor
   - Ent eval if recurs
   - Hold on NT suction
   - Vit K supplement
   .
   * Anemia:
   Baseline 28, presumed to be from MDS, inflammation.  Now Hct below
   baseline in setting of bleeding in setting of LMWH.  s/p 4 units PRBCs
   with inadequate bump.  Now with guiaiac + stool, recent epistaxis,  LLE
   hematoma
   - Cont [**Hospital1 **] Hct checks
   - transfuse to goal 26-28
   - Active T/S
   - GI consult given guaiac + stool
 outpt endoscopy
   - IV PPI
   .
   * Tachypnea/presumed HAP:
   Breathing more comfortably, on room air currently.
   No new micro data.
   - Cont Vanco, Cefepime complete 8d course
   - Check vanco level Sunday [**5-9**] AM
   - f/u sputum, blood, urine,  Legionella neg
   - Supportive care with 02, nebulizers
   - Chest PT, frequent suctioning
   .
   * LLE Fluid Collection: Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  Aspiration with serosanguinous fluid.  Surrounding
   area with erythema.  Unclear if patient has underlying infection.
   - f/u joint fluid, blood cx
   - Antibiotics above treating possible infection
   - Monitor for progression
   - Trend Hct
   - Appreciate ortho, vascular -> cont wrap with ACE
   .
   * Hypernatremia
   - Free water flushes increase PM lytes
   .
   * CAD s/p CABG: No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA, statin
   .
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   .
   * CHF: Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.
   Likely ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   .
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   .
   * Acute on chronic renal failure: Baseline Cr 2.  Currentl slightly
   above.  [**Month (only) 11**] be related to pre-renal physiology given underlying
   infection.  U/A with RBCs, WBCs
   - f/u urine cx
   - Cont to trend
   - Gentle IVF and blood xfusion
   - send urine lytes, eos to assess
   .
   * Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology eval
   likely multifactorial to include MDS, inflammation, CKD.
   Thrombocytopenia likely related to MDS.  Well above baseline currently.
   - Active T/S, consent
   - Xfuse Plt <10
   .
   * HTN: Hold metoprolol
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-7**] 12:03 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now giving nursing needs
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 5934**] has needed 4 units pRBC
s and 1 unit FFP so far. He remains
   intermittently confused but cough is stronger. He denies pain and his
   leg is to be evaluated by the Orthopedic staff today. He will need free
   water repletion, possible one more unit of blood ( with hydration) and
   institution of low dose haldol to help with agitation. He still
   warrants ICU level nursing care on account of his mental status for
   now. Nastracheal suctioning is to be avoided on account of epistaxis
   overnight.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2117-5-7**] 12:26 ------

2117-05-08 06:43:00 Physician Resident Progress Note
Chief Complaint: tachypnea, hematoma
   24 Hour Events:
   - Ortho: cont ACE wrap, multipodus boots
   - PM lytes, Hct stable
   - Tube feeds changed to fibersource
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2117-5-6**] 10:00 AM
   Cefipime - [**2117-5-7**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-5-7**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-8**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 61 (61 - 100) bpm
   BP: 92/40(51) {92/35(51) - 147/98(102)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,649 mL
                                                                    617 mL
   PO:
             TF:
                                                                  1,039 mL
                                                                    411 mL
   IVF:
                                                                    840 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    210 mL
   Urine:
                                                                    780 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,869 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: awake, answering questions,
   HEENT: anicteric sclera, MM w/ blood, bleeding from R nare
   Neck: supple, RIJ in place
   Heart: irregular, no obvious murmurs
   Lung: Coarse BS diffusely with decreased BS at L base.  Wet upper
   airway sounds
   Abd: soft, NT + BS
   Ext: 2+ edema on L, brown discoloration bilat.  LLE wrapped but mildly
   tender.  Ext warm
   Skin: multiple ecchymoses
   Neuro: awake but calling out frequently.  moving upper ext with good
   strength.
   Labs / Radiology
   113 K/uL
   8.0 g/dL
   134 mg/dL
   2.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   70 mg/dL
   115 mEq/L
   145 mEq/L
   23.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2117-5-5**]  11:11 AM
                             [**2117-5-5**]  05:14 PM
                             [**2117-5-5**]  07:43 PM
                             [**2117-5-6**]  03:03 AM
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
   WBC
   10.1
   10.3
   10.2
   8.5
   Hct
   20.9
   22.6
   23.7
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   Plt
   143
   136
   143
   113
   Cr
   2.5
   2.6
   2.6
   2.5
   2.5
   Glucose
   101
   118
   127
   167
   134
   Other labs: PT / PTT / INR:15.7/28.8/1.4,  Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Blood cx [**5-4**]: ngtd
   Sputum cx : poor sample
   CT Torso [**5-6**]:
   IMPRESSION:
   1. Large left calf hematoma. No retroperitoneal bleed.
   2. Bilateral lower lobe consolidation/atelectasis as described above.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 .H/O ANEMIA, OTHER
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   A/P: 88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission
   for VATS/decortication/pleurectomy for L hemothorax, who presents with
   altered mental status and LLE fluid collection.
   .
   .
   * Altered Mental Status:
   Improved, waxing and [**Doctor Last Name 282**] MS c/w delirium likely due to infection,
   pain. According to family, close to baseline.
   - Treat medical problems as per below
   - Cont antibiotics for presumed PNA
   - Treat bleeding per below
   - f/u urine and blood cx, send sputum cx
   - Hold psychoactive medications
   - Reorient frequently
   - Treat electrolyte disturbance
   - Start Haldol 0.5mg TID prn, follow QTC
   .
   * Epistaxis
   Resolved.  Dry mucosa. Bleed controlled with pressure, Afrin, ddAVP
   - Continue to monitor
   - Ent eval if recurs
   - Hold on NT suction
   - Vit K supplement
   .
   * Anemia:
   Baseline 28, presumed to be from MDS, inflammation.  Now Hct below
   baseline in setting of bleeding in setting of LMWH.  s/p 4 units PRBCs
   with inadequate bump.  Now with guiaiac + stool, recent epistaxis,  LLE
   hematoma.  Hct 23 this AM
   - Cont [**Hospital1 **] Hct checks
   - transfuse to goal 26-28
   - Active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   .
   * Tachypnea/presumed HAP:
   Breathing more comfortably, on room air currently.
   No new micro data.
   - Cont Vanco, Cefepime complete 8d course
   - Check vanco level Sunday [**5-9**] AM
   - f/u sputum, blood, urine,  Legionella neg
   - Supportive care with 02, nebulizers
   - Chest PT, frequent suctioning
   .
   * LLE Fluid Collection: Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  Aspiration with serosanguinous fluid.  Surrounding
   area with erythema.  Unclear if patient has underlying infection.  CT
   scan with hematoma
   - f/u joint fluid, blood cx
   - Antibiotics above treating possible infection
   - Monitor for progression
   - Trend Hct
   - Appreciate ortho, vascular -> cont wrap with ACE
   .
   * Hypernatremia
   Resolved
   - Free water flushes increase PM lytes
   .
   * CAD s/p CABG: No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA, statin
   .
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   .
   * CHF: Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.
   Likely ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   .
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   .
   * Acute on chronic renal failure: Baseline Cr 2.  Currently slightly
   above.  [**Month (only) 11**] be related to pre-renal physiology given underlying
   infection.  U/A with RBCs, WBCs
   - f/u urine cx
   - Cont to trend
   - Gentle IVF and blood xfusion
   - send urine lytes, eos to assess today
   .
   * Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology eval
   likely multifactorial to include MDS, inflammation, CKD.
   Thrombocytopenia likely related to MDS.  Well above baseline currently.
   - Active T/S, consent
   - Xfuse Plt <10
   .
   * HTN: Tolerating home metoprolol
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-7**] 11:20 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2117-05-08 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax, who presents with
   altered mental status and LLE fluid collection.
   24 Hour Events:
   leg re-wrapped yesterday. Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2117-5-6**] 10:00 AM
   Cefipime - [**2117-5-7**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-5-8**] 07:56 AM
   Other medications:
   Metoprolol 12.5 [**Hospital1 **], MVI, Docusate, Vancomycin 1g q48, Tylenol,
   Protonix 40 [**Hospital1 **], Vit K x3d, trazodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-8**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 69 (53 - 100) bpm
   BP: 109/37(53) {92/35(51) - 147/98(102)} mmHg
   RR: 33 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,649 mL
                                                                    870 mL
   PO:
             TF:
                                                                  1,039 mL
                                                                    621 mL
   IVF:
                                                                    840 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    280 mL
   Urine:
                                                                    780 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,869 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse: present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished: on
   left, Rhonchorous: on right)
   Abdominal: Soft, Non-tender, PEG site c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   113 K/uL
   134 mg/dL
   2.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   70 mg/dL
   115 mEq/L
   145 mEq/L
   23.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2117-5-5**]  11:11 AM
                             [**2117-5-5**]  05:14 PM
                             [**2117-5-5**]  07:43 PM
                             [**2117-5-6**]  03:03 AM
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
   WBC
   10.1
   10.3
   10.2
   8.5
   Hct
   20.9
   22.6
   23.7
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   Plt
   143
   136
   143
   113
   Cr
   2.5
   2.6
   2.6
   2.5
   2.5
   Glucose
   101
   118
   127
   167
   134
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Cxr
increase in L pleural effusion/LLL atelectasis
   Assessment and Plan
   * Altered Mental Status: c/w delirium likely due to infection, pain,
   now nearing baseline per family
   - Treat medical problems as per below
   - Cont antibiotics for presumed PNA
   - Reorient frequently
   - Treat electrolyte disturbance
   - Start Haldol 0.5mg TID prn, follow QTC
   * Epistaxis. Dry mucosa. Bleed controlled with pressure, Afrin, ddAVP
   - Ent eval if recurs
   - Hold on NT suction
   - Vit K supplement
   * MDS/ Anemia: Baseline 28, acute bleed, now stable
   - Cont [**Hospital1 **] Hct checks
   - transfuse to goal > 25
   - Active T/S
   - PPI [**Hospital1 **] for guaiac + stools
   * Tachypnea/presumed HAP:  Breathing more comfortably, on room air
   currently.No new micro data.
   - Cont Vanco, Cefepime complete 8d course
   - Check vanco level Sunday [**5-9**] AM
   - f/u sputum, blood, urine,  Legionella neg
   - Supportive care with 02, nebulizers
   - Chest PT, frequent suctioning
   --recurrent effusion on imaging-given recent VATS/decort by thoracics
   will notify IP/thoracics.  Unclear if this is recurrent hemothorax
   noting stable hct.  Will obtain ct chest.  Will need dx tap.
   * LLE Fluid Collection: Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  s/p joint aspiration
   - f/u joint fluid, blood cx
   - Antibiotics above treating possible infection
   - Monitor for progression
   - Trend Hct
   - Appreciate ortho, vascular -> cont wrap with ACE
   * Hypernatremia- Free water flushes increase PM lytes
   * CAD s/p CABG: No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   * CHF: Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.
   Likely ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   * Acute on chronic renal failure: Baseline Cr 2.  Currentl slightly
   above.  [**Month (only) 11**] be related to pre-renal physiology given underlying
   infection.  U/A with RBCs, WBCs
   - f/u urine cx
   - Cont to trend
   - Gentle IVF and blood xfusion
   - send urine lytes, eos to assess
   * Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology eval
   likely multifactorial to include MDS, inflammation, CKD.
   Thrombocytopenia likely related to MDS.  Well above baseline currently.
   - Active T/S, consent
   - Xfuse Plt <10
   * HTN: Hold metoprolol
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-7**] 11:20 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :gwill keep in icu for monitoring
   Total time spent: 20 minutes

2117-05-09 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-8**]
   - CXR demonstrated increased left pleural effusion
   - Thoracics consulted and because today
s CXR looks better they will
   defer [**Female First Name (un) 231**] for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2117-5-6**] 10:00 AM
   Cefipime - [**2117-5-8**] 04:00 PM
   Vancomycin - [**2117-5-8**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-5-8**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-9**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 68 (53 - 89) bpm
   BP: 106/52(64) {91/31(47) - 134/58(82)} mmHg
   RR: 27 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,940 mL
                                                                    703 mL
   PO:
             TF:
                                                                  1,539 mL
                                                                    425 mL
   IVF:
                                                                    741 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    166 mL
   Urine:
                                                                    695 mL
                                                                    166 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,745 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Gen: awake, answering questions,
   HEENT: anicteric sclera, MM w/ blood, bleeding from R nare
   Neck: supple, RIJ in place
   Heart: irregular, no obvious murmurs
   Lung: Coarse BS diffusely with decreased BS at L base.  Wet upper
   airway sounds
   Abd: soft, NT + BS
   Ext: 2+ edema on L, brown discoloration bilat.  LLE wrapped but mildly
   tender.  Ext warm
   Skin: multiple ecchymoses
   Neuro: awake but calling out frequently.  moving upper ext with good
   strength.
   Labs / Radiology
   115 K/uL
   8.5 g/dL
   110 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.6 mEq/L
   73 mg/dL
   117 mEq/L
   145 mEq/L
   25.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2117-5-5**]  07:43 PM
                             [**2117-5-6**]  03:03 AM
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
   WBC
   10.1
   10.3
   10.2
   8.5
   9.3
   Hct
   22.6
   23.7
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   Plt
   143
   136
   143
   113
   115
   Cr
   2.6
   2.6
   2.5
   2.5
   2.5
   Glucose
   118
   127
   167
   134
   110
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax was admitted with
   altered mental status, LLE fluid collection, and newly developed left
   sided pleural effusion.
   1. Altered Mental Status:
   Continued waxing and [**Doctor Last Name 282**] c/w intermittent delirium. Etiology was
   most likely due to infection and pain.
   - continue cefepime and vancomycin
   - pain control
   - follow-up blood, urine cultures
   - hold sedating medications
   - haldol prn
   2. Left sided pleural effusion
   Pleural effusion was diagnosed on CXR for evaluation of tachypnea.
   Etiology is unclear, although patient is certainly at risk for
   reaccumulation of hemothorax (although hct stable). Thoracics was
   consulted and do not recommend [**Female First Name (un) 231**] at this point.
   - appreciate thoracics input
   - CT chest w/o contrast to eval effusion
   3. LLE hematoma
   Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with hemorrhage/clot.  He
   underwent aspiration with serosanguinous fluid withimprovement in
   symptoms.
   - follow-up joint fluid culture
   - [**Hospital1 **] hct
   - appreciate ortho input
   4. Epistaxis
   Resolved.  Dry mucosa. Bleed controlled with pressure, Afrin, ddAVP
   - Continue to monitor
   - Ent eval if recurs
   - Hold on NT suction
   - Vit K supplement
   5. Anemia:
   Etiology thought likely related to MDS and inflammation with baseline
   hct 28. Hct is slightly low in the setting of bleeding, although has
   been stable.
   - continue [**Hospital1 **] hct checks
   - transfuse if evidence of further bleeding
   - maintain active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   6. Tachypnea
   Thought likely related to hospital-acquired pneumonia and pleural
   effusion.
   - continue vancomycin and cefepime to complete an 8 day course
   - appreciate thoracics input and plan for thoracentesis today
   - Check vanco level Sunday [**5-9**] AM
   - f/u sputum, blood, urine culture
   - Supportive care with 02, nebulizers
   - Chest PT, frequent suctioning
   7. Hypernatremia
   Resolved
   8. CAD s/p CABG:
   No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA (given bleeding), statin
   9. Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   10. CHF:
   Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.  Likely
   ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   11. COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   12.Acute on chronic renal failure:
   Baseline Cr 2.  FE Na is 1.5%. Currently slightly above.  Differential
   includes pre-renal physiology given underlying infection or decreased
   in setting of bleeding.
   - f/u urine cx
   - Cont to trend
   - send urine lytes, eos to assess today
   13. Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology
   eval likely multifactorial to include MDS, inflammation, CKD.
   Currently at baseline.
   - Active T/S, consent
   - Xfuse Plt <10
   14. HTN: Tolerating home metoprolol
   ICU Care
   Nutrition: Fibersource HN Full strength
   Glycemic Control:  BS well-controlled
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor after CT scan

2117-05-09 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo male w/ COPD, CADd, recent L hemothorax s/p VATS decortication,
   admitted w/ altered mental status possibly related to pain vs presumed
   pna, as well as LLE hematoma presumably related to ruptured Bakers
   cyst. Overall clinically improved, but yest w/ L-sided white-out on
   CXR.
   24 Hour Events:
   thoracic [**Doctor First Name **] involved for L-sided white-out on CXR yest. Monitored
   clinically
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-5-8**] 04:00 PM
   Vancomycin - [**2117-5-8**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   MVI, colace, Dorzolamide OD gtt, Tylenol, metoprolol 12.5 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-9**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 67 (66 - 89) bpm
   BP: 132/59(75) {91/31(47) - 148/68(85)} mmHg
   RR: 25 (18 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,941 mL
                                                                  1,120 mL
   PO:
             TF:
                                                                  1,540 mL
                                                                    737 mL
   IVF:
                                                                    741 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    376 mL
   Urine:
                                                                    695 mL
                                                                    376 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,746 mL
                                                                    744 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: LLE wrapped, in boot
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   115 K/uL
   110 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.6 mEq/L
   73 mg/dL
   117 mEq/L
   145 mEq/L
   25.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2117-5-5**]  07:43 PM
                             [**2117-5-6**]  03:03 AM
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
   WBC
   10.1
   10.3
   10.2
   8.5
   9.3
   Hct
   22.6
   23.7
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   Plt
   143
   136
   143
   113
   115
   Cr
   2.6
   2.6
   2.5
   2.5
   2.5
   Glucose
   118
   127
   167
   134
   110
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR ([**5-9**])- slightly increased aeration of L lung, effusion
   similar to [**5-7**]
   Assessment and Plan
   DELIRIUM- resolved, likely due to infection, pain
   -complete short course ABX for pna as below
   -prn Haldol for agitation
   -1/2 dose trazodone tonight (12.5 qhs) to assess for better mental
   status in am
   PRESUMED PNEUMONIA- RLL infiltrate
   - Cont Vanco, Cefepime complete 8d course
   - Check vanco level Sunday [**5-9**] AM
   LLE HEMATOMA- stable presumably d/t ruptured Bakers cyst
   -trend Hct
   -Ortho, Vascular following --> wrapping LE
   -question when PT/OT appropriate for pt?
   L SIDED EFFUSION V MUCOUS PLUGGING- still somewhat tachypneic
   -variable CXR suggests mucous plugging but has hx of effusion
   -repeat noncontrast CT chest today to assess
   -appreciate thoracics input
   ACUTE ON CHRONIC RENAL FAILURE- prerenal vs intrinsic renal ATN from
   now-resolving infxn
   -continue to monitor
   MDS/ANEMIA- stable
   - PPI [**Hospital1 **] for guaiac + stools
   CAD s/p CABG, ICM- stable
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   AFIB- stable
   - Cont metoprolol
   - Hold anticoag given bleed
   COPD- stable
   - Albuterol, ipratropium prn
   - 02 as needed
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-9**] 06:30 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-5-4**] 11:30 PM
   Comments: PICC order placed
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2117-05-10 08:03:00 Physician Resident Progress Note
Chief Complaint: Delirium
   LLL collapse
   24 Hour Events:
 MULTI LUMEN - STOP [**2117-5-9**] 07:22 PM
   .
   - CT chest w/ LLL collapse from mucus plug
   - discussion w/ family re ? trach (no decision yet)
   - he pulled out his central line
   - sundowning, given trazadone 25 mg and lorazepam 0.5 mg IV.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-5-8**] 10:00 PM
   Cefipime - [**2117-5-9**] 03:54 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-5-10**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-10**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 86 (67 - 98) bpm
   BP: 120/90(97) {98/43(59) - 148/90(97)} mmHg
   RR: 30 (19 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,556 mL
                                                                    519 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    519 mL
   IVF:
                                                                    245 mL
   Blood products:
   Total out:
                                                                    886 mL
                                                                    250 mL
   Urine:
                                                                    886 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,670 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Gen: awake, answering questions,
   HEENT: anicteric sclera, MM w/ blood, bleeding from R nare
   Neck: supple, RIJ in place
   Heart: irregular, no obvious murmurs
   Lung: Coarse BS diffusely with decreased BS at L base.  Wet upper
   airway sounds
   Abd: soft, NT + BS
   Ext: 2+ edema on L, brown discoloration bilat.  LLE wrapped but mildly
   tender.  Ext warm
   Skin: multiple ecchymoses
   Neuro: awake but calling out frequently.  moving upper ext with good
   strength.
   Labs / Radiology
   112 K/uL
   8.7 g/dL
   116 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   77 mg/dL
   118 mEq/L
   147 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   Glucose
   127
   167
   134
   110
   116
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: [**5-9**] Chest CT wet read: LLL collapse
   Assessment and Plan
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax was admitted with
   altered mental status, LLE fluid collection, and newly developed left
   sided pleural effusion.
   1. Altered Mental Status:
   Continued waxing and [**Doctor Last Name 282**] c/w intermittent delirium. Etiology was
   most likely due to infection and pain.
   - continue cefepime and vancomycin
   - pain control
   - follow-up blood, urine cultures
   - hold sedating medications
   - haldol prn
   2. Left sided pleural effusion/Collapse
   Pleural effusion was diagnosed on CXR for evaluation of tachypnea.
   Etiology is unclear, although patient is certainly at risk for
   reaccumulation of hemothorax (although hct stable). Thoracics was
   consulted and do not recommend [**Female First Name (un) 231**] at this point.
   - appreciate thoracics input
   - CT chest w/o contrast to eval effusion -> shows persistent collapse
   - Stable for now, hold on procedures
   - RT -> MIE
   3. LLE hematoma
   Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with hemorrhage/clot.  He
   underwent aspiration with serosanguinous fluid withimprovement in
   symptoms.
   - follow-up joint fluid culture -> NTGD
   - Hct daily
   - appreciate ortho input
   4. Epistaxis
   Resolved.  Dry mucosa. Bleed controlled with pressure, Afrin, ddAVP
   - Continue to monitor
   - Ent eval if recurs
   - Hold on NT suction
   - Vit K supplement
   5. Anemia:
   Etiology thought likely related to MDS and inflammation with baseline
   hct 28. Hct is slightly low in the setting of bleeding, although has
   been stable.
   - continue daily hct checks
   - transfuse if evidence of further bleeding
   - maintain active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   6. Tachypnea
   Thought likely related to hospital-acquired pneumonia and pleural
   effusion.
   - continue vancomycin and cefepime to complete an 8 day course
   - appreciate thoracics input and plan for thoracentesis today
   - Check vanco level Sunday [**5-9**] AM
   - f/u sputum, blood, urine culture
   - Supportive care with 02, nebulizers
   - Chest PT, frequent suctioning
   7. Hypernatremia: Na trending up again
   - Increase free water flushes in PEG
   8. CAD s/p CABG:
   No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA (given bleeding), statin
   9. Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   10. CHF:
   Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.  Likely
   ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   11. COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   12.Acute on chronic renal failure:
   Baseline Cr 2.  FE Na is 1.5%. Currently slightly above.  Differential
   includes pre-renal physiology given underlying infection or decreased
   in setting of bleeding.
   - f/u urine cx
   - Cont to trend
   - send urine lytes, eos to assess today
   13. Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology
   eval likely multifactorial to include MDS, inflammation, CKD.
   Currently at baseline.
   - Active T/S, consent
   - Xfuse Plt <10
   14. HTN: Tolerating home metoprolol
   .
   15. Goals of care: Will consult palliative care to help discussion with
   goals of care and coordinating with family
s wishes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-9**] 09:46 PM 65 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2117-5-9**] 09:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now

2117-05-10 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo male w/ COPD, CAD, recent L hemothorax s/p VATS decortication,
   admitted w/ altered mental status possibly related to pain vs presumed
   pna, as well as LLE hematoma presumably related to ruptured Bakers
   cyst. Overall clinically improved, but new w/ L-sided white-out on
   CXRs.
   24 Hour Events:
   Overnight, pulled out central line. More delirious yest pm, received 25
   trazodone and 0.5 lorazepam.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-5-8**] 10:00 PM
   Cefipime - [**2117-5-9**] 03:54 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-5-10**] 12:45 AM
   Other medications:
   Tylenol, Lansoprazole, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-10**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 89 (67 - 98) bpm
   BP: 116/54(68) {98/48(59) - 145/90(97)} mmHg
   RR: 34 (19 - 38) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,556 mL
                                                                    705 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    645 mL
   IVF:
                                                                    245 mL
   Blood products:
   Total out:
                                                                    886 mL
                                                                    405 mL
   Urine:
                                                                    886 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,670 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : R side, Diminished: L
   axilla, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: LLE wrapped
   Skin:  multiple skin wounds, dressed
   Neurologic: Responds to:verbal but delirious and agitated
   Labs / Radiology
   8.7 g/dL
   112 K/uL
   116 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   77 mg/dL
   118 mEq/L
   147 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   Glucose
   127
   167
   134
   110
   116
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR ([**5-10**]) -pending
   Assessment and Plan
   DELIRIUM- slightly less oriented this am due, perhaps due to overnight
   benzo and trazodone
   - resolved, likely due to infection, pain
   -complete short course ABX for pna as below
   -prn Haldol for agitation, optimize sleep wake as much as possible
   -will dc trazodone and avoid future benzo use
   MUCOUS PLUGGING- still somewhat tachypneic, has been a recurrent issue
   due to poor cough and is s/p 3 bronchs in [**Month (only) 11**] for recurrent plugging.
   -will try aggressive chest PT, nebs bd and mucomyst, cough assist
   device/ MIE
   --he would poorly tolerate bronch/conscious sedation and would require
   intubation for procedure.  Also unlikely to tolerate nippv mask given
   delirium
   -appreciate thoracics input
   PRESUMED PNEUMONIA
   - RLL infiltrate
   - Cont Vanco, Cefepime complete 8d (day 6) course
   LLE HEMATOMA
   -stable presumably d/t ruptured Bakers cyst
   -trend Hct
   -Ortho, Vascular following --> wrapping LE
   -question when PT/OT appropriate for pt?
   VASCULAR ACCESS- pulled out central line yest
   -will plan for PICC placement tomorrow
   ACUTE ON CHRONIC RENAL FAILURE- prerenal vs intrinsic renal ATN from
   now-resolving infxn
   -continue to monitor
   MDS/ANEMIA- stable
   - PPI [**Hospital1 **] for guaiac + stools
   CAD s/p CABG, ICM- stable
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   AFIB- stable
   - Cont metoprolol
   - Hold anticoag given bleed
   COPD- stable
   - Albuterol, ipratropium prn
   - 02 as needed
   GOALS OF CARE-  family meeting yesterday btw team and pulmonary fellow
   Dr [**Last Name (STitle) 6181**] and pt
s  son and daughter to discuss care options.
   This addressed patient's prognosis, and that given his prolonged
   bedrest and numerous complications, any recovery will be very slow and
   [**Male First Name (un) **] and  that the likelihood of his returning to independent quality
   is very low. Additionally given the recurrent mucous plugging and prior
   history of recurrent plug, aggressive care might entail a tracheostomy
   to facilitate clearance, though this would not necessarily change his
   overall poor prognosis. The team noted significant resistance from the
   son accepting this assessment, but some element of understanding/
   acceptance from patient and wife. In addition the patient has made
   repeated statements about NOT wanting aggressive care when talking to
   nursing/medical team.
   Pall Care c/s.
   Plan to hold another family mtg this pm, possibly w/ Pall Care svce.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-9**] 09:46 PM 65 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-5-9**] 09:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2117-05-11 08:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   History obtained from MD
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2117-5-8**] 10:00 PM
   Cefipime - [**2117-5-10**] 05:50 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-11**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 90 (75 - 105) bpm
   BP: 134/67(84) {106/42(54) - 172/132(140)} mmHg
   RR: 37 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,731 mL
                                                                    713 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    533 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    420 mL
   Urine:
                                                                    940 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    293 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), right leg wrapped
   Respiratory / Chest: (Breath Sounds: Bronchial: bases b/l, Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   112 K/uL
   116 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   77 mg/dL
   118 mEq/L
   147 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   Glucose
   127
   167
   134
   110
   116
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   DELIRIUM- slightly less oriented this am due, perhaps due to overnight
   benzo and trazodone
   - resolved, likely due to infection, pain
   -complete short course ABX for pna as below
   -prn Haldol for agitation, optimize sleep wake as much as possible
   -will dc trazodone and avoid future benzo use
   MUCOUS PLUGGING- still somewhat tachypneic, has been a recurrent issue
   due to poor cough and is s/p 3 bronchs in [**Month (only) 11**] for recurrent plugging.
   -will try aggressive chest PT, nebs bd and mucomyst, cough assist
   device/ MIE
   --he would poorly tolerate bronch/conscious sedation and would require
   intubation for procedure.  Also unlikely to tolerate nippv mask given
   delirium
   -appreciate thoracics input
   PRESUMED PNEUMONIA
   - RLL infiltrate
   - Cont Vanco, Cefepime complete 8d (day 6) course
   LLE HEMATOMA
   -stable presumably d/t ruptured Bakers cyst
   -trend Hct
   -Ortho, Vascular following --> wrapping LE
   -question when PT/OT appropriate for pt?
   VASCULAR ACCESS- pulled out central line yest
   -will plan for PICC placement tomorrow
   ACUTE ON CHRONIC RENAL FAILURE- prerenal vs intrinsic renal ATN from
   now-resolving infxn
   -continue to monitor
   MDS/ANEMIA- stable
   - PPI [**Hospital1 **] for guaiac + stools
   CAD s/p CABG, ICM- stable
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   AFIB- stable
   - Cont metoprolol
   - Hold anticoag given bleed
   COPD- stable
   - Albuterol, ipratropium prn
   - 02 as needed
   GOALS OF CARE-  family meeting yesterday btw team and pulmonary fellow
   Dr [**Last Name (STitle) 6181**] and pt
s  son and daughter to discuss care options.
   This addressed patient's prognosis, and that given his prolonged
   bedrest and numerous complications, any recovery will be very slow and
   [**Male First Name (un) **] and  that the likelihood of his returning to independent quality
   is very low. Additionally given the recurrent mucous plugging and prior
   history of recurrent plug, aggressive care might entail a tracheostomy
   to facilitate clearance, though this would not necessarily change his
   overall poor prognosis. The team noted significant resistance from the
   son accepting this assessment, but some element of understanding/
   acceptance from patient and wife. In addition the patient has made
   repeated statements about NOT wanting aggressive care when talking to
   nursing/medical team.
   Pall Care c/s.
   Plan to hold another family mtg this pm, possibly w/ Pall Care svce.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-11**] 04:23 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2117-05-11 08:20:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - Repeat CXR with no change
   - Thoracics: cont supportive care, ? trach next week depending on
   family wishes
   - Increased H20 flushes
   - Family meeting held: explained all possibly options and family
   starting to shift to comfort and against trach.  Did not decide
   definitively on code status.  Leaning towards going home in the near
   future with comfort and to avoid further procedures or long
   hospitalizations
   - Palliative care consulted -> should see Tuesday
   - Less agitated overnight after given olanzapine
   - Acute change in mental status on rounds this morning
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2117-5-8**] 10:00 PM
   Cefipime - [**2117-5-10**] 05:50 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt denies any pain or dyspnea
   Flowsheet Data as of  [**2117-5-11**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 90 (75 - 105) bpm
   BP: 134/67(84) {106/42(54) - 172/132(140)} mmHg
   RR: 37 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,731 mL
                                                                    648 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    528 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    300 mL
   Urine:
                                                                    940 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    348 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   Lying in bed, appears comfortable
   Irregularly irregular no m/r/g
   Decreased breath sounds L chest
   Abd soft nontender +PEG
   Extrem Warm L calf bandage C/D/I, +swelling dorsum L foot
   Opens eyes to voice, following commands, oriented to
subsidiary
   Labs / Radiology
   112 K/uL
   8.7 g/dL
   116 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   77 mg/dL
   118 mEq/L
   147 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  10:44 AM
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.3
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   Glucose
   127
   167
   134
   110
   116
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:0.9 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Micro
   [**5-9**] stool C diff negative
   [**5-5**] sputum >10 epis
   [**5-5**] wound cx negative
   [**5-5**] hematoma culture negative
   [**5-5**] sputum 1 colony of mold
   [**5-4**] blood cx negative
   [**5-4**] urine cx negative
   [**5-5**] urine legionella negative
   CXR
   Large L pleural effusion, appears improved from [**5-10**]
   Assessment and Plan
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax was admitted with
   altered mental status, LLE fluid collection and persistent mucus
   plugging now w/ acute alteration of mental status.
   * Altered Mental Status:
   Much worse this am on rounds although continued waxing and [**Doctor Last Name 282**] c/w
   intermittent delirium. Etiology was most likely due to infection and
   pain.  Now w/ concern for acute stroke vs hypercarbia.
   - pain control
   - treating ?infection as below
   - hold sedating medications
   - haldol prn, zyprexa QHS
   - have called the son to discuss goals of care given that the patient
   prevented us from obtaining an ABG, will not be able to get a head CT
   given respiratory status
   - he has been made DNR/DNI given his living will
   .
   * Respiratory distress
   Respiratory status much improved, no fever or leukocytosis. Mucous
   plugging and pleural effusion likely also were contributors to
   respiratory distress.
   - continue cefepime and vancomycin currently d7 complete 8d course for
   possible HCAP
   - prn bronchodilators
   - suctioning, chest PT as needed
   - thoracics recs appreciated
   .
   * Left sided pleural effusion/Collapse
   Patient has history of recurrent L pleural effusion, underwent
   decortication and pleurectomy [**2117-4-16**].  Hct stable arguing against
   significant bleeding into pleural space.
   - appreciate thoracics input
 no plan for thoracentesis at this time
   - CT chest w/o contrast to eval effusion -> shows persistent collapse
   - RT -> MIE
   * LLE hematoma
   Hct now stable.  Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  He underwent aspiration with serosanguinous fluid
   with improvement in symptoms.
   - follow-up joint fluid culture -> NTGD
   - Hct daily
   - appreciate ortho input
   * Anemia:
   Etiology thought likely related to MDS and inflammation with baseline
   hct 28. Hct is slightly low in the setting of bleeding, although has
   been stable.
   - continue daily hct checks
   - transfuse if evidence of further bleeding, hb>7
   - maintain active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   * Hypernatremia: Na trending up again yesterday.  We were unable to get
   AM labs so unclear what it is today.
   - Increase free water flushes in PEG
   * CAD s/p CABG:
   No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA (given bleeding), statin
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   * CHF:
   Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.  Likely
   ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   * Acute on chronic renal failure: Stable.
   Baseline Cr 2.  FE Na is 1.5%. Currently slightly above.  Differential
   includes pre-renal physiology given underlying infection or decreased
   in setting of bleeding.
   - f/u urine cx
   - Cont to trend
   - send urine lytes, eos to assess today
   *  Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology
   eval likely multifactorial to include MDS, inflammation, CKD.
   Currently at baseline.
   - Active T/S, consent
   - Xfuse Plt <10
   * HTN: Tolerating home metoprolol
   .
   * Goals of care: Will consult palliative care to help discussion with
   goals of care and coordinating with family
s wishes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2117-5-11**] 04:23 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM (s/p self-d/c of RIJ)
   Prophylaxis:
   DVT:  holding anticoagulation in setting of bleeding
   Stress ulcer: PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds
   Code status: DNR/DNI (see  note in chart)
   Disposition:ICU

2117-05-12 08:00:00 Physician Resident Progress Note
Chief Complaint: Delirium
   Mucus plugging
   24 Hour Events:
   - increased somnolence in AM, improved without specific intervention
   later in the morning
   - CT head no acute process
   - family meeting, agreed on DNR/DNI
   - again agitated in evening improved with PO haldol
   - palliative care to see wednesday 2:30pm
   - brief run of NSVT on telemetry overnight
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2117-5-11**] 05:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2117-5-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-12**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 93 (76 - 99) bpm
   BP: 110/83(88) {110/48(59) - 143/94(98)} mmHg
   RR: 28 (21 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,310 mL
                                                                    977 mL
   PO:
                  TF:
                                                                  1,560 mL
                                                                    517 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    270 mL
   Urine:
                                                                  1,070 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    707 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/33/106//0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   8.7 g/dL
   107 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   77 mg/dL
   115 mEq/L
   144 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
                             [**2117-5-11**]  11:55 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   TCO2
   23
   Glucose
   127
   167
   134
   110
   116
   107
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:1.3 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: [**5-11**] Wet read Head CT:
   No acute intracranial process, including no edema or mass. No change
   from the
   prior study, including age-related atrophy and lacunar infarction.
   .
   [**5-11**] CXR
   IMPRESSION:
   1. Increased large left pleural effusion and left basilar
   consolidation.
   2. Unchanged right lower lobe pneumonia.
   Microbiology: No new cx
   Assessment and Plan
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax was admitted with
   altered mental status, LLE fluid collection and persistent mucus
   plugging now w/ acute alteration of mental status.
   * Altered Mental Status:
   Much worse this am on rounds although continued waxing and [**Doctor Last Name 282**] c/w
   intermittent delirium. Etiology was most likely due to infection and
   pain.  Now w/ concern for acute stroke vs hypercarbia.
   - pain control
   - treating ?infection as below
   - hold sedating medications
   - haldol prn, zyprexa QHS
   - have called the son to discuss goals of care given that the patient
   prevented us from obtaining an ABG, will not be able to get a head CT
   given respiratory status
   - he has been made DNR/DNI given his living will
   .
   * Respiratory distress
   Respiratory status much improved, no fever or leukocytosis. Mucous
   plugging and pleural effusion likely also were contributors to
   respiratory distress.
   - continue cefepime and vancomycin currently d7 complete 8d course for
   possible HCAP
   - prn bronchodilators
   - suctioning, chest PT as needed
   - thoracics recs appreciated
   .
   * Left sided pleural effusion/Collapse
   Patient has history of recurrent L pleural effusion, underwent
   decortication and pleurectomy [**2117-4-16**].  Hct stable arguing against
   significant bleeding into pleural space.
   - appreciate thoracics input
 no plan for thoracentesis at this time
   - CT chest w/o contrast to eval effusion -> shows persistent collapse
   - RT -> MIE
   * LLE hematoma
   Hct now stable.  Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  He underwent aspiration with serosanguinous fluid
   with improvement in symptoms.
   - follow-up joint fluid culture -> NTGD
   - Hct daily
   - appreciate ortho input
   * Anemia:
   Etiology thought likely related to MDS and inflammation with baseline
   hct 28. Hct is slightly low in the setting of bleeding, although has
   been stable.
   - continue daily hct checks
   - transfuse if evidence of further bleeding, hb>7
   - maintain active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   * Hypernatremia: Na trending up again yesterday.  We were unable to get
   AM labs so unclear what it is today.
   - Increase free water flushes in PEG
   * CAD s/p CABG:
   No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA (given bleeding), statin
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   * CHF:
   Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.  Likely
   ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   * Acute on chronic renal failure: Stable.
   Baseline Cr 2.  FE Na is 1.5%. Currently slightly above.  Differential
   includes pre-renal physiology given underlying infection or decreased
   in setting of bleeding.
   - f/u urine cx
   - Cont to trend
   - send urine lytes, eos to assess today
   *  Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology
   eval likely multifactorial to include MDS, inflammation, CKD.
   Currently at baseline.
   - Active T/S, consent
   - Xfuse Plt <10
   * HTN: Tolerating home metoprolol
   .
   * Goals of care: Will consult palliative care to help discussion with
   goals of care and coordinating with family
s wishes
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2117-5-12**] 06:59 AM 65 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2117-05-12 08:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > family meeting: DNR/I
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2117-5-11**] 05:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-12**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 93 (76 - 99) bpm
   BP: 110/83(88) {110/48(59) - 143/94(98)} mmHg
   RR: 28 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,310 mL
                                                                    994 mL
   PO:
                  TF:
                                                                  1,560 mL
                                                                    534 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    270 mL
   Urine:
                                                                  1,070 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    724 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/33/106//0
   Physical Examination
   General Appearance: limited MS
   [**Name13 (STitle) **], Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left, Rhonchorous:
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.7 g/dL
   112 K/uL
   107 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   77 mg/dL
   115 mEq/L
   144 mEq/L
   26.3 %
   9.5 K/uL
        No Labs
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
                             [**2117-5-11**]  11:55 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   TCO2
   23
   Glucose
   127
   167
   134
   110
   116
   107
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:1.3 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   CXR [**5-12**]: increasing RLL infiltrate.
   Assessment and Plan
   Depressed mental status (acutely): nl blood sugar, concern for
   increased dead space (increased CO2), no med effects at present, could
   also have had new stroke/bleed but not stable enough to move from floor
   in the absence of intubation.
   > Altered MS: fluctuating MS with no clear precipitant to changes in
   his status
   >LLL PNA
   -complete course ABX for pna as below
   -avoid any sedating meds
   >MUCOUS PLUGGING- still somewhat tachypneic, has been a recurrent issue
   due to poor cough and is s/p 3 bronchs in [**Month (only) 11**] for recurrent plugging.
   -will try aggressive chest PT, nebs bd and mucomyst, cough assist
   device/ MIE
   -he would poorly tolerate bronch/conscious sedation and would require
   intubation for procedure.  Also unlikely to tolerate nippv mask given
   delirium
   -appreciate thoracics input
   >PRESUMED PNEUMONIA
   - RLL infiltrate
   - Cont Vanco, Cefepime complete 8d (day 7) course
    >LLE HEMATOMA
   -stable presumably d/t ruptured Bakers cyst
   -trend Hct
   -Ortho, Vascular following --> wrapping LE
    >VASCULAR ACCESS- pulled out central line yest
   -will plan for PICC placement tomorrow
   >ACUTE ON CHRONIC RENAL FAILURE- prerenal vs intrinsic renal ATN from
   now-resolving infxn
   -continue to monitor
   >MDS/ANEMIA- stable
   - PPI [**Hospital1 **] for guaiac + stools
   >CAD s/p CABG, ICM- stable
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   > AFIB- stable
   - Cont metoprolol
   - Hold anticoag given bleed
   >COPD- stable
   - Albuterol, ipratropium prn
   - 02 as needed
   Will meet with family today to discuss overall prognosis.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2117-5-12**] 06:59 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2117-05-13 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2117-5-12**] 04:27 PM
   Vancomycin - [**2117-5-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-5-13**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-13**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.6
   HR: 92 (82 - 100) bpm
   BP: 131/61(74) {117/50(68) - 158/91(105)} mmHg
   RR: 30 (24 - 39) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,670 mL
                                                                    540 mL
   PO:
                  TF:
                                                                  1,560 mL
                                                                    280 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                     97 mL
   Urine:
                                                                    895 mL
                                                                     97 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,775 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 89%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   112 K/uL
   107 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   77 mg/dL
   115 mEq/L
   144 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
                             [**2117-5-11**]  11:55 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   TCO2
   23
   Glucose
   127
   167
   134
   110
   116
   107
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:1.3 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Depressed mental status (acutely): nl blood sugar, concern for
   increased dead space (increased CO2), no med effects at present, could
   also have had new stroke/bleed but not stable enough to move from floor
   in the absence of intubation.
   > Altered MS: fluctuating MS with no clear precipitant to changes in
   his status
   >LLL PNA
   -complete course ABX for pna as below
   -avoid any sedating meds
   >MUCOUS PLUGGING- still somewhat tachypneic, has been a recurrent issue
   due to poor cough and is s/p 3 bronchs in [**Month (only) 11**] for recurrent plugging.
   -will try aggressive chest PT, nebs bd and mucomyst, cough assist
   device/ MIE
   -he would poorly tolerate bronch/conscious sedation and would require
   intubation for procedure.  Also unlikely to tolerate nippv mask given
   delirium
   -appreciate thoracics input
   >PRESUMED PNEUMONIA
   - RLL infiltrate
   - Cont Vanco, Cefepime complete 8d (day 7) course
    >LLE HEMATOMA
   -stable presumably d/t ruptured Bakers cyst
   -trend Hct
   -Ortho, Vascular following --> wrapping LE
    >ACUTE ON CHRONIC RENAL FAILURE- prerenal vs intrinsic renal ATN from
   now-resolving infxn
   -continue to monitor
   >MDS/ANEMIA- stable
   - PPI [**Hospital1 **] for guaiac + stools
   >CAD s/p CABG, ICM- stable
   - Cont Metoprolol
   - hold on adding ASA for now given bleeding; can start statin prior to
   dc
   > AFIB- stable
   - Cont metoprolol
   - Hold anticoag given bleed
   >COPD- stable
   - Albuterol, ipratropium prn
   - 02 as needed
   Overall goal per family discussion is comfort care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2117-05-13 08:01:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   Family meeting held
   Patient became progressively more hypoxic, now CMO per family
   discussion and patient's living will
   Allergies:
   Trazodone
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2117-5-12**] 04:27 PM
   Vancomycin - [**2117-5-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-5-13**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-5-13**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.6
   HR: 92 (82 - 100) bpm
   BP: 131/61(74) {117/50(68) - 158/91(105)} mmHg
   RR: 30 (24 - 39) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                  2,670 mL
                                                                    540 mL
   PO:
                  TF:
                                                                  1,560 mL
                                                                    280 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                     97 mL
   Urine:
                                                                    895 mL
                                                                     97 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,775 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 89%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   8.7 g/dL
   107 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   77 mg/dL
   115 mEq/L
   144 mEq/L
   26.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2117-5-6**]  05:16 PM
                             [**2117-5-7**]  02:08 AM
                             [**2117-5-7**]  06:36 AM
                             [**2117-5-7**]  02:36 PM
                             [**2117-5-8**]  02:28 AM
                             [**2117-5-8**]  02:50 PM
                             [**2117-5-9**]  04:36 AM
                             [**2117-5-9**]  04:45 PM
                             [**2117-5-10**]  03:54 AM
                             [**2117-5-11**]  11:55 AM
   WBC
   10.3
   10.2
   8.5
   9.3
   9.5
   Hct
   26.0
   25.7
   25.4
   25.1
   23.3
   25.4
   25.6
   27.1
   26.3
   Plt
   136
   143
   113
   115
   112
   Cr
   2.6
   2.5
   2.5
   2.5
   2.5
   TCO2
   23
   Glucose
   127
   167
   134
   110
   116
   107
   Other labs: PT / PTT / INR:15.7/28.8/1.4, CK / CKMB / Troponin-T:8//,
   ALT / AST:13/27, Alk Phos / T Bili:/1.4, Lactic Acid:1.3 mmol/L,
   LDH:223 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   88 yo M with CAD s/p CABG, MVR, afib, COPD, s/p recent admission for
   VATS/decortication/pleurectomy for L hemothorax was admitted with
   altered mental status, LLE fluid collection and persistent mucus
   plugging now w/ acute alteration of mental status.
   * Goals of care
   Will discuss with family and palliative care today regarding
   transistioning to hospice
   - Holding off on labs and invasive procedures at this time with NO
   escalation of care
   * Altered Mental Status:
   Waxing and [**Doctor Last Name 282**] remains poor
   Much worse this am on rounds although continued waxing and [**Doctor Last Name 282**] c/w
   intermittent delirium. Etiology was most likely due to infection and
   pain.  Now w/ concern for acute stroke vs hypercarbia.
   - pain control
   - treating ?infection as below
   - hold sedating medications
   - haldol prn
   - he has been made DNR/DNI given his living will
   .
   * Respiratory distress
   Respiratory status much improved, no fever or leukocytosis. Mucous
   plugging and pleural effusion likely also were contributors to
   respiratory distress.
   - continue cefepime and vancomycin currently d7 complete 8d course for
   possible HCAP
   - prn bronchodilators
   - chest PT as needed HOLDING on suctioning
   - thoracics recs appreciated
   .
   * Left sided pleural effusion/Collapse
   Patient has history of recurrent L pleural effusion, underwent
   decortication and pleurectomy [**2117-4-16**].  Hct stable arguing against
   significant bleeding into pleural space.
   - appreciate thoracics input
 no plan for thoracentesis at this time
   - CT chest w/o contrast to eval effusion -> shows persistent collapse
   - RT -> MIE
   * LLE hematoma
   Hct now stable.  Ultrasound suggestive of [**Hospital Ward Name 5060**] cyst with
   hemorrhage/clot.  He underwent aspiration with serosanguinous fluid
   with improvement in symptoms.
   - follow-up joint fluid culture -> NTGD
   - Hct daily
 labs on hold
   - appreciate ortho input
   * Anemia:
   Etiology thought likely related to MDS and inflammation with baseline
   hct 28. Hct is slightly low in the setting of bleeding, although has
   been stable.
   - continue daily hct checks
 labs on hold
   - transfuse if evidence of further bleeding, hb>7
   - maintain active T/S
   - GI consult given guaiac + stool
> outpt endoscopy, unless opens up
   from a GI source
   - change to PO PPI
   * Hypernatremia: Na trending up again yesterday.  We were unable to get
   AM labs so unclear what it is today.
   - Increase free water flushes in PEG
   * CAD s/p CABG:
   No symptoms of ischemia currently, or on EKG
   - Cont Metoprolol
   - ? not on ASA (given bleeding), statin
   * Afib: Afib on EKG.
   - Cont metoprolol
   - Hold anticoag given bleed
   * CHF:
   Per OSH Echo in [**2115**], EF 40%.  Echo here with EF 45% so stable.  Likely
   ischemic in origin given CAD.  Currently no signs of gross fluid
   overload
   - Cont BB
   * COPD: Unclear degree of COPD.  No PFTs available
   - Albuterol, ipratropium prn
   - 02 as needed
   * Acute on chronic renal failure: Stable.
   Baseline Cr 2.  FE Na is 1.5%. Currently slightly above.  Differential
   includes pre-renal physiology given underlying infection or decreased
   in setting of bleeding.
   - f/u urine cx
   - Cont to trend
   - send urine lytes, eos to assess today
   *  Thrombocytopenia: Prior Plt count 50-70s.  Per recent hematology
   eval likely multifactorial to include MDS, inflammation, CKD.
   Currently at baseline.
   - Active T/S, consent
   - Xfuse Plt <10
   * HTN: Tolerating home metoprolol
   .
   * Goals of care: Will consult palliative care to help discussion with
   goals of care and coordinating with family
s wishes
 COMFORT CARE (CMO, COMFORT MEASURES)
 PLEURAL EFFUSION, ACUTE
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-5-10**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI /CMO
   Disposition:ICU